US09145392B2
3-bromo-4-(4-{4-[3-(trifluoromethyl)phenyl]-1H-imidazol-2-yl}piperidin-1-yl)pyridine (“5”)
A mixture of 3-bromo-4-chloropyridine (100.0 mg; 0.52 mmol; 1.0 eq.), 4-[4-(3-trifluoromethyl-phenyl)-1h-imidazol-2-yl]-piperidine (153.4 mg; 0.52 mmol; 1.0 eq.), N,N-diisopropylethylamine (0.26 ml; 1.56 mmol; 3.0 eq.) in NMP (2.0 ml) in a microwave vial was heated at 160° C. for 4 h. The reaction mixture was poured into water. The precipitate was filtered, washed with water and dried under vacuum to afford the title compound in 64% yield. LC-MS: (M+1=451, obsd.=451).

reactant | 3-bromo-4-chloropyridine | 0.52 mmol, 100.0 mg, 1.0 eq. | BrC=1C=NC=CC1Cl | C5H3BrClN
reactant | 4-[4-(3-trifluoromethyl-phenyl)-1h-imidazol-2-yl]-piperidine | 0.52 mmol, 153.4 mg, 1.0 eq. | FC(C=1C=C(C=CC1)C=1N=C(NC1)C1CCNCC1)(F)F | C15H16F3N3
reactant | N,N-diisopropylethylamine | 1.56 mmol, 0.26 ml, 3.0 eq. | C(C)(C)N(C(C)C)CC | C8H19N
reactant | water | O | H2O
solvent | NMP | 2.0 ml | CN1CCCC1=O | C5H9NO
product | 3-bromo-4-(4-{4-[3-(trifluoromethyl)phenyl]-1H-imidazol-2-yl}piperidin-1-yl)pyridine | 64% yield | BrC=1C=NC=CC1N1CCC(CC1)C=1NC=C(N1)C1=CC(=CC=C1)C(F)(F)F | C20H18BrF3N4
